US09107411B2
12.0 g (46.1 mmol) of methyl 2-bromo-4-nitrobenzoate were initially charged in 240 ml of 1,2-dimethoxyethane, 2.66 g (2.30 mmol) of tetrakis(triphenylphosphine)palladium were added, and the mixture was stirred for 20 min. Subsequently, a solution of 6.38 g (46.1 mmol) of potassium carbonate in 80 ml of water and 11.11 g (46.1 mmol) of 2,4,6-trivinylcyclotriboroxane were added. The reaction mixture was stirred at reflux temperature for 20 hours. After cooling, the mixture was added to water and extracted with ethyl acetate, the organic phases were dried with magnesium sulphate, and the solvent was distilled off under reduced pressure. The residue was chromatographed using silica gel with cyclohexane/ethyl acetate (ratio 6:1) as the eluent. 4.5 g (46% of theory) of methyl 4-nitro-2-vinylbenzoate were obtained.

reactant | methyl 2-bromo-4-nitrobenzoate | 46.1 mmol, 12.0 g | BrC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | potassium carbonate | 46.1 mmol, 6.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4,6-trivinylcyclotriboroxane | 46.1 mmol, 11.11 g | C(=C)B1OB(OB(O1)C=C)C=C | C6H9B3O3
solvent | 1,2-dimethoxyethane | 240 ml | COCCOC | C4H10O2
solvent | water | 80 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 2.30 mmol, 2.66 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-nitro-2-vinylbenzoate | 4.5 g, 46% | [N+](=O)([O-])C1=CC(=C(C(=O)OC)C=C1)C=C | C10H9NO4
